US06150351
To a mixture of benzhydryl 7β-(2-phenylacetamido)-3-(4-carboxymethylthiazol-2-yl)thio-3-cephem-4-carboxylate potassium salt (1.10 g), anisole (1.10 ml) and dichloromethane (3.30 ml) was added trifluoroacetic acid (2.20 ml) at 15° C. After stirring at room temperature for 1 hour, the solution was poured into diisopropyl ether. The resulting precipitate was collected by filtration, added to a mixture of tetrahydrofuran and water and adjusted to pH 7.2 with an aqueous sodium bicarbonate. The separated aqueous solution was adjusted to pH 3.0 with 1N-hydrochloric acid and extracted with tetrahydrofuran. The tetrahydrofuran solution was washed with saturated sodium chloride solution, dried over magnesium sulfate and evaporated under reduced pressure. Ethyl acetate was added to the residue and the resulting crystal was collected by filtration to give 7β-(2-phenylacetamido)-3-(4-carboxymethylthiazol-2-yl)thio-3-cephem-4-carboxylic acid (595 mg).

reactant | benzhydryl 7β-(2-phenylacetamido)-3-(4-carboxymethylthiazol-2-yl)thio-3-cephem-4-carboxylate potassium salt | 1.10 g | [K].C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=2SC=C(N2)CC(=O)O)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | anisole | 1.10 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 2.20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | 3.30 ml | ClCCl | CH2Cl2
product | 7β-(2-phenylacetamido)-3-(4-carboxymethylthiazol-2-yl)thio-3-cephem-4-carboxylic acid | 595 mg | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=2SC=C(N2)CC(=O)O)C(=S)O)C1=O | C20H17N3O5S3
